US06806265B2
a) 4-(2-Amino-4-thiazolyl)-2-methylphenol
Thiourea (79.8 mg, 1.05 mmol) was added to a solution of 2-bromo-1-(4-hydroxy-3-methylphenyl)ethanone (200 mg, 0.87 mmol) in 1,4-dioxane (15 mL). The reaction mixture was stirred at 25° C. for 24 h. The resulting suspension was filtered and the solid was washed with 1,4-dioxane and dried under reduced pressure. The solid was suspended in water (30 mL), pH 7 buffer solution (15 mL) was added and the mixture was extracted with EtOAc (3×50 mL). The combined organic layers were successively washed with water (20 mL) and brine (20 mL), dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (Hexane:EtOAc, 1:1) to give the title compound (180 mg, 100% yield).

reactant | Thiourea | 1.05 mmol, 79.8 mg | NC(=S)N | CH4N2S
reactant | 2-bromo-1-(4-hydroxy-3-methylphenyl)ethanone | 0.87 mmol, 200 mg | BrCC(=O)C1=CC(=C(C=C1)O)C | C9H9BrO2
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 4-(2-Amino-4-thiazolyl)-2-methylphenol | 180 mg, 100% yield | NC=1SC=C(N1)C1=CC(=C(C=C1)O)C | C10H10N2OS
